### PR TITLE
[Merged by Bors] - chore: delete >6 month old deprecations (2024-10 11-21)

### PR DESCRIPTION
**Pull request by Parcly-Taxel**
The first commit was done automatically using #21271's method, with the regex
```
@\[deprecated.*\(since := "2024-10-([01].|2[01])"\)\][\s\n]?(protected )?alias [_a-zA-Zα-ωΑ-Ωϊ-ϻἀ-῾℀-⅏𝒜-𝖟'.₀₁₂₃₄₅₆₇₈₉]* :=[\s\n]+[_a-zA-Zα-ωΑ-Ωϊ-ϻἀ-῾℀-⅏𝒜-𝖟'.₀₁₂₃₄₅₆₇₈₉]*\n\n?
```
The remaining commits are manual removals of empty sections and missed deprecations (`2024-10-([01].|2[01])`).

### CODE REVIEW

**Review by YaelDillies — APPROVED** [review]
Thanks!

In the future, could we please have the regex automatically run, the changes committed and the PR approved by a bot (akin to the nolints update)? That way, your PRs would only need to deal with the manual cleanups (and be much faster to review!).

maintainer merge

File: Mathlib/Algebra/BigOperators/Group/List/Basic.lean [hunk 1]
```diff
@@ -508,7 +497,8 @@ lemma drop_sum_flatten (L : List (List α)) (i : ℕ) :
   · simp
   · cases i <;> simp [take_append, *]
 
-@[deprecated (since := "2024-10-15")] alias drop_sum_join := drop_sum_flatten
+@[deprecated (since := "2024-10-25")] alias take_sum_join' := take_sum_flatten
+@[deprecated (since := "2024-10-25")] alias drop_sum_join' := drop_sum_flatten
```
Comment (Vierkantor) [inline Mathlib/Algebra/BigOperators/Group/List/Basic.lean:501]: How did these get (re?)added?

File: Mathlib/Data/List/Flatten.lean [hunk 2]
```diff
@@ -34,121 +35,20 @@ protected theorem Sublist.flatMap {l₁ l₂ : List α} (h : l₁ <+ l₂) (f :
...
-alias drop_take_succ_join_eq_getElem' := drop_take_succ_flatten_eq_getElem'
-
-theorem flatten_drop_length_sub_one {L : List (List α)} (h : L ≠ []) :
-    (L.drop (L.length - 1)).flatten = L.getLast h := by
-  induction L using List.reverseRecOn
-  · cases h rfl
-  · simp
-
-@[deprecated (since := "2024-10-15")] alias join_drop_length_sub_one := flatten_drop_length_sub_one
+  induction L generalizing i with
```
Comment (Vierkantor) [inline Mathlib/Data/List/Flatten.lean:46]: Please move this change to an independent PR, so we do not mix deleting deprecated declarations with proof rewriting.

File: Mathlib/Algebra/BigOperators/Group/List/Basic.lean (hunk 1 above)
Comment (YaelDillies) [reply Mathlib/Algebra/BigOperators/Group/List/Basic.lean:501]: Ctrl + F for them in the diff. They come from another file

File: Mathlib/SetTheory/Cardinal/Aleph.lean [hunk 3]
```diff
@@ -573,10 +560,7 @@ set_option linter.deprecated false in
 theorem aleph'_pos {o : Ordinal} (ho : 0 < o) : 0 < aleph' o := by
   rwa [← aleph'_zero, aleph'_lt]
 
-set_option linter.deprecated false in
-@[deprecated preAleph_isNormal (since := "2024-10-22")]
-theorem aleph'_isNormal : IsNormal (ord ∘ aleph') :=
-  preAleph_isNormal
+@[deprecated (since := "2024-10-22")] alias aleph'_isNormal := isNormal_preOmega
```
Comment (Vierkantor) [inline Mathlib/SetTheory/Cardinal/Aleph.lean:563]: This could now also be deleted since it is the 23rd.
```suggestion
```

File: Mathlib/SetTheory/Cardinal/Cofinality.lean [hunk 4]
```diff
@@ -633,20 +619,9 @@ theorem cof_preOmega {o : Ordinal} (ho : IsSuccPrelimit o) : (preOmega o).cof =
...
-theorem aleph'_cof {o : Ordinal} (ho : o.IsLimit) : (aleph' o).ord.cof = o.cof :=
-  aleph'_isNormal.cof_eq ho
-
-set_option linter.deprecated false in
-@[deprecated cof_omega (since := "2024-10-22")]
-theorem aleph_cof {o : Ordinal} (ho : o.IsLimit) : (ℵ_  o).ord.cof = o.cof :=
-  aleph_isNormal.cof_eq ho
+@[deprecated (since := "2024-10-22")] alias preAleph_cof := cof_preOmega
+@[deprecated (since := "2024-10-22")] alias aleph'_cof := cof_preOmega
+@[deprecated (since := "2024-10-22")] alias aleph_cof := cof_omega
```
Comment (Vierkantor) [inline Mathlib/SetTheory/Cardinal/Cofinality.lean:624]:
```suggestion
```

**Review by Vierkantor — APPROVED** [review]
I checked everything else and it looks good to me. Thanks! 🎉 

bors d+

**Comment by Parcly-Taxel** [comment]
bors merge
